US08383819B2
1-[(S)-1-(tert-butyldimethyl-silanyloxymethyl)-2-methylpropyl]-6-(3-chloro-2-fluorobenzyl)-7-methoxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid ethyl ester (900 mg) was added to isopropyl alcohol (3.6 mL), and 1N sodium hydroxide (3.6 mL) was added. After stirring at 70° C. for 3 hr, the completion of the reaction was confirmed by HPLC. The reaction mixture was cooled, and allowed to cool to room temperature. n-Heptane (5 mL) was added and, after stirring, the mixture was partitioned. The aqueous layer was washed with n-heptane (5 mL). 35% Hydrochloric acid (400 mg) was added to the aqueous layer, methylisopropylketone (10 mL) was added and, after stirring, the mixture was partitioned. The organic layer was washed successively with 8.5% aqueous sodium hydrogencarbonate solution (5 mL) (3 times), 0.5N hydrochloric acid (5 mL) containing sodium chloride (250 mg), and 10% brine (5 mL). After the washing, methylisopropylketone was evaporated under reduced pressure to give 6-(3-chloro-2-fluorobenzyl)-1-[(S)-1-hydroxymethyl-2-methylpropyl]-7-methoxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (680 mg, yield 99.3%) as a yellow-white solid.

reactant | 1-[(S)-1-(tert-butyldimethyl-silanyloxymethyl)-2-methylpropyl]-6-(3-chloro-2-fluorobenzyl)-7-methoxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid ethyl ester | 900 mg | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)CC1=C(C(=CC=C1)Cl)F)OC)[C@@H](C(C)C)C(O[SiH2]C(C)(C)C)(C)C | C31H41ClFNO5Si
reactant | isopropyl alcohol | 3.6 mL | C(C)(C)O | C3H8O
reactant | sodium hydroxide | 1N, 3.6 mL | [OH-].[Na+]
solvent | n-Heptane | 5 mL | CCCCCCC | C7H16
product | 6-(3-chloro-2-fluorobenzyl)-1-[(S)-1-hydroxymethyl-2-methylpropyl]-7-methoxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 680 mg, yield 99.3% | ClC=1C(=C(CC=2C=C3C(C(=CN(C3=CC2OC)[C@@H](C(C)C)CO)C(=O)O)=O)C=CC1)F | C23H23ClFNO5
